US05292739
Preparation of 1,3-dimethyl-5-{3-[4-(2-methoxyphenyl)-1-piperazinyl]-propylamino}-1H-pyrazole
0.5 g (13 mmol) of lithium aluminium tetrahydride are suspended in 100 ml of tetrahydrofuran and a solution of 3.9 g (11 mmol) of 1,3-dimethyl-5-{3-[4-(2-methoxyphenyl) -1-piperazinyl]-propionamido}-1H-pyrazole in 50 ml of tetrahydrofuran is added dropwise in the course of 30 minutes. The mixture is kept at ambient temperature during the addition and is then refluxed for 3 hours. The excess lithium aluminium hydride is destroyed, the insoluble inorganic fraction is filtered off, the tetrahydrofuran is removed, the product is dissolved in chloroform, washed with water, dried over anhydrous sodium sulphate and evaporated to dryness and 3 g (81%) of 1,3-dimethyl-5-{3-[4-(2-methoxyphenyl)-1-piperazinyl]-propylamino}-1H-pyrazol are obtained.

reactant | lithium aluminium tetrahydride | 13 mmol, 0.5 g | [H-].[H-].[H-].[H-].[Al+3].[Li+]
reactant | 1,3-dimethyl-5-{3-[4-(2-methoxyphenyl) -1-piperazinyl]-propionamido}-1H-pyrazole | 11 mmol, 3.9 g | CN1N=C(C=C1NC(CCN1CCN(CC1)C1=C(C=CC=C1)OC)=O)C | C19H27N5O2
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | 1,3-dimethyl-5-{3-[4-(2-methoxyphenyl)-1-piperazinyl]-propylamino}-1H-pyrazole | CN1N=C(C=C1NCCCN1CCN(CC1)C1=C(C=CC=C1)OC)C | C19H29N5O
